US08802682B2
Step i): 3-bromo-2-cyanomethylpyridine (Intermediate 1)
Dry THF (100 mL) was cooled to −78° C. and n-butyllithium (2.5 M in hexanes; 23 mL, 58 mmol) was added. Acetonitrile (3.3 mL, 64 mmol) was added dropwise maintaining the temperature below −60° C. A white precipitate formed and the reaction mixture was stirred at −78° C. for 45 min. A solution of 2,3-dibromopyridine (2.0 g, 8 4 mmol) in dry THF (10 mL) was added dropwise and the reaction mixture stirred at −78° C. for 1.5 h then allowed to warm to room temperature. The reaction was quenched by the dropwise addition of water. The aqueous was extracted with DCM (×3) and the combined organics washed with brine, dried (MgSO4) and concentrated in vacuo. (3-Bromo-pyridin-2-yl)-acetonitrile (Intermediate 1) was purified by flash column chromatography.

reactant | n-butyllithium | 58 mmol, 2.5 M, 23 mL | C(CCC)[Li]
reactant | Acetonitrile | 64 mmol, 3.3 mL | C(C)#N | C2H3N
reactant | 2,3-dibromopyridine | 4 mmol, 2.0 g | BrC1=NC=CC=C1Br | C5H3Br2N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-cyanomethylpyridine | BrC=1C(=NC=CC1)CC#N | C7H5BrN2
